US06121266
Diethyl ketomalonate (17.4 g, 0.1 mol) was heated with 4-acetylpyridine (12.1 g, 0.1 mol) at 120° C. for 15 h under nitrogen to provide diethyl 2-hydroxy-2-(4-pyridyl)cabonylmethyl-malonate as a crystalline solid. The diester was refluxed in ethanol with a slight excess of hydrazine hydrate hydrochloride for 15 h to provide 3-hydroxy-6-(4-pyridyl)-4-carbethoxy-pyridazine (4, Scheme 1). The above ester was recrystallized from ethanol, hydrolyzed with aqueous sodium hydroxide followed by careful neutralization with hydrochloric acid to afford 3-hydroxy-6-(4-pyridyl)-pyridazine-4-carboxylic acid (5, Scheme 1). The acid was dissolved in phosphorous oxychloride containing a catalytic amount of DMF and the mixture was allowed to react at 80° C. for 4 h to provide 3-chloro-4-chlorocarbonyl-6-(4-pyridyl)pyridazine (6, Scheme 1) as a dark oil The above dichloride was treated with gaseous ammonia in acetonitrile to afford the title compound as a tan solid. The above dichloride was treated with excess gaseous ammonia to afford the title compound as a tan solid: 1H NMR (DMSO-d6) δ 8.80 (d, J=6 Hz, 2H), 8.59 (s, 1H), 8.20 (s, 1H), 8.17 (d, 6 Hz, 1H).

reactant | Diethyl ketomalonate | 0.1 mol, 17.4 g | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
reactant | 4-acetylpyridine | 0.1 mol, 12.1 g | C(C)(=O)C1=CC=NC=C1 | C7H7NO
product | diethyl 2-hydroxy-2-(4-pyridyl)cabonylmethyl-malonate | OC(C(=O)OCC)(C(=O)OCC)CC(=O)C1=CC=NC=C1 | C14H17NO6
